US08735440B2
Step 1. ethyl 2-(3,6-dibromo-9H-carbazol-9-yl)acetate
To a solution of 3,6-dibromocarbazole (325.0 mg, 1.0 mmol, 1 equiv) in anhydrous N,N-dimethylformamide (5 mL) was added crushed KOH (67.3 mg, 1.2 mmol, 1.2 equiv). The mixture was stirred for 30 minutes. Ethyl bromoacetate (277.2 μL, 2.5 mmol, 2.5 equiv) was added into the mixture and it was stirred at room temperature overnight. The reaction crude was diluted with ethyl acetate (30 mL) and washed with 1M HCl and water. The organic layer was dried with MgSO4 and the concentrated to afford 396.3 mg white solid as product (96.4%).

reactant | 3,6-dibromocarbazole | 1.0 mmol, 325.0 mg, 1 equiv | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | KOH | 1.2 mmol, 67.3 mg, 1.2 equiv | [OH-].[K+]
reactant | Ethyl bromoacetate | 2.5 mmol, 277.2 μL, 2.5 equiv | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(3,6-dibromo-9H-carbazol-9-yl)acetate | 396.3 mg | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(=O)OCC | C16H13Br2NO2
